US04931083
1-(3,4-dichlorophenyl)-3-(1-ethoxycarbonylethylthio)-1,2,4-1H-triazole
An 11.5 g portion of 1-(3,4-dichlorophenyl)3-thiono-1,2,4-1H-triazole was dissolved in 100 ml of dry dimethylsulfoxide, and was added to 1.1 g of sodium dissolved in 50 ml of absolute ethanol. The mixture was warmed at 60°-80° for 1 hour, and then 8.5 g of ethyl 2-bromopropionate was added and the mixture was held at 100°-110° for 2 hours. It was then cooled and poured over ice-water, and the aqueous mixture was extracted with dichloromethane. The organic layer was washed with brine, and was dried over magnesium sulfate. The solvent was removed under vacuum, and the residue was purified by chromatography, eluting with 2:1 hexane:ethyl acetate. The product-containing fractions were combined and evaporated under vacuum to obtain 11 g of the desired product.

reactant | 1-(3,4-dichlorophenyl)3-thiono-1,2,4-1H-triazole | ClC=1C=C(C=CC1Cl)N1NC(N=C1)=S | C8H5Cl2N3S
reactant | sodium | 1.1 g | [Na] | Na
reactant | ethyl 2-bromopropionate | 8.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(3,4-dichlorophenyl)-3-(1-ethoxycarbonylethylthio)-1,2,4-1H-triazole | 11 g | ClC=1C=C(C=CC1Cl)N1N=C(N=C1)SC(C)C(=O)OCC | C13H13Cl2N3O2S
